US07585875B2
To a solution of 2.3 g (8.15 mmol) of 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one in 32 ml of anhydrous EtOH was added 2.26 g of hydroxylamine hydrochloride, followed by a solution of 1.63 g (8.15 mmol) NaOH in 5 ml water dropwise. The mixture was stirred and refluxed over night. After cooling, the solution was poured into a solution of 4.8 ml 6N HCl in 100 ml ice water with stirring for 30 minutes. The mixture was extracted with ethyl acetate three times. The combined organic phases were washed with brine and dried over MgSO4. After solvent evaporation under vacuum, 4.6 g of crude product was obtained. Purification on an aluminum oxide column with hexane-dichloromethane-ethyl acetate as eluant afforded 1.65 g (67%) of 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one oxime. Compound 1019.

reactant | 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one | 8.15 mmol, 2.3 g | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C(C)C)=O | C17H15FN2O
reactant | hydroxylamine hydrochloride | 2.26 g | Cl.NO
reactant | NaOH | 8.15 mmol, 1.63 g | [OH-].[Na+]
reactant | HCl | 6N, 4.8 ml | Cl | ClH
solvent | EtOH | 32 ml | CCO | C2H6O
solvent | water | 5 ml | O | H2O
product | 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one oxime | 1.65 g, 67% | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C(C)C)=NO | C17H16FN3O
